US07960562B2
At 0° C., benzyl piperazine-1-carboxylate (1.37 g) was added to an acetonitrile (5 mL) solution of N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)-3,5-dimethyl-1H-pyrazole-1-carboximidamide (205 mg), and heated under reflux for 3 days. After cooling, ethyl acetate was added, then washed with aqueous saturated ammonium chloride solution, water and saturated brine in that order, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/4) to obtain benzyl 4-[[({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)amino](imino)methyl]piperazine-1-carboxylate (76 mg).

reactant | benzyl piperazine-1-carboxylate | 1.37 g | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
reactant | N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)-3,5-dimethyl-1H-pyrazole-1-carboximidamide | 205 mg | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)NC(=N)N1N=C(C=C1C)C)=C1NC2=C(N1)C=CC=C2)=O | C28H22F2N6O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 4-[[({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)amino](imino)methyl]piperazine-1-carboxylate | 76 mg | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)NC(N1CCN(CC1)C(=O)OCC1=CC=CC=C1)=N)=C1NC2=C(N1)C=CC=C2)=O | C35H30F2N6O6S
